US07166725B2
5-Bromo-6-methyl-benzo[d]isoxazol-3-ol:
A 25 ml high-pressure tube equipped with a stir bar and a screw-on Teflon cap was charged with 6-methyl-benzo[d]isoxazol-3-ol (745 mg, 5.0 mmole, 1.0 eq) and glacial acetic acid (5.0 ml). Neat Br2 (774 μL, 15.0 mmoles, 3.0 eq) was added dropwise. After stirring at 80° C. for 20 hours, the reaction was allowed to cool slowly to room temperature. The resulting precipitate was collected by filtration and washed quickly with 3×1.0 ml of glacial acetic acid. Crystallization of this crude product (624 mg) from 50 ml of MeCN yielded 567 mg of the title compound (96% purity determined RP-HPLC). Additional crystallization from 70 ml of toluene provided 519 mg (46%) as a white solid (98.1% purity determined by HPLC). (1H DMSO-d6, 400 MHz) δ 12.45 (s, 1H), 7.94 (s, 1H), 7.61 (s, 1H), 2.45 (s, 3H); (13C CD3OD, 100 MHz) δ 165.96, 164.50, 142.34, 125.39, 119.73, 115.78, 112.67, 24.10.

reactant | 6-methyl-benzo[d]isoxazol-3-ol | 5.0 mmole, 745 mg, 1.0 eq | CC1=CC2=C(C(=NO2)O)C=C1 | C8H7NO2
reactant | Br2 | 15.0 mmoles, 774 μL, 3.0 eq | BrBr | Br2
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-6-methyl-benzo[d]isoxazol-3-ol | 567 mg, 96% | BrC=1C(=CC2=C(C(=NO2)O)C1)C | C8H6BrNO2
